US04632925
A flame-dried, 22-L flask equipped with a mechanical stirrer, condenser, and a gas inlet tube dipping below the surface of the solvent was charged with 4.0 L of methylene chloride, 1.25 L of triethylamine, 385 g of 7-octyn-1-ol, and 285 mL (456 g) of 3-bromopyridine. The reagents were rinsed into the flask with an additional 100 mL of methylene chloride. Argon was bubbled through the reaction mixture for 30 minutes. The flask was evacuated for 3 minutes at 70 mm. The vacuum was released by bubbling in argon. This process was repeated six times and then 42 g of dichlorobis(triphenyl phosphine)palladium (II) and 4 g of cuprous iodide were added. The mixture was heated at a gentle reflux for 18 hours and cooled to 20°. To the mixture was added, with vigorous stirring, 8.0 L of ether. A small amount of yellowish-white solid was removed by filtration and washed with 2×1.5 L=3.0 L of ether. The combined filtrate was washed with 3.0 L of deionized water and 2×3.0 L=6.0 L of 1N hydrochloric acid. The combined aqueous solutions were washed with 2×2.5 L=5.0 L of ether. The organic solutions were discarded and the aqueous solution was made strongly basic by the addition of 2.50 L of 20% sodium hydroxide solution. The resulting mixture was extracted with 3×4.0 L=12.0 L of methylene chloride. The extracts were dried over sodium sulfate and filtered through Celite. Solvent removal on a rotary evaporator at 45° gave 534.2 g (91% yield) of a pale brown 8-(3-pyridinyl)-7-octyn-1-ol having a strong odor of 3-bromopyridine. No further purification of this material was undertaken.

reactant | methylene chloride | 4.0 L | C(Cl)Cl | CH2Cl2
reactant | 7-octyn-1-ol | 385 g | C(CCCCCC#C)O | C8H14O
reactant | 3-bromopyridine | 285 mL, 456 g | BrC=1C=NC=CC1 | C5H4BrN
solvent | triethylamine | 1.25 L | C(C)N(CC)CC | C6H15N
product | 8-(3-pyridinyl)-7-octyn-1-ol | 534.2 g, 91% yield | N1=CC(=CC=C1)C#CCCCCCCO | C13H17NO
